US06787543B2
Lithium aluminum hydride (114 mg) was added by small portions to an ice-cooled solution of 1-benzhydryl-2-(N-methoxymethylamino)-2-oxoethylcarbamic acid tert-butyl ester (1.15 g) in tetrahydrofuran (10 ml) below 5° C. under nitrogen atmosphere. After the mixture was stirred at the same temperature for 1 hour, 2N sodium hydroxide (0.5 ml) was added to the mixture. After the mixture was stirred for 30 minutes, the insoluble materials were removed by filtration and washed with tetrahydrofuran. The filtrate and the washing were combined, and evaporated under reduced pressure. The residue was dissolved into dichloromethane (15 ml), and N-benzylglycine ethyl ester (609 mg) was added to the solution. To the resulting solution sodium triacetoxyborohydride (1.27 g) was added portionwise under stirring and the whole was stirred at 5° C.˜room temperature overnight. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give N-benzyl-N-[2-(tert-butoxycarbonylamino)-3,3-diphenylpropyl]glycine ethyl ester (1.51 g) as a colorless oil.

reactant | Lithium aluminum hydride | 114 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzhydryl-2-(N-methoxymethylamino)-2-oxoethylcarbamic acid tert-butyl ester | 1.15 g | C(C)(C)(C)OC(NC(C(=O)NCOC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H28N2O4
reactant | sodium hydroxide | 2N, 0.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-benzyl-N-[2-(tert-butoxycarbonylamino)-3,3-diphenylpropyl]glycine ethyl ester | 1.51 g | C(C)OC(CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C31H38N2O4
